US04294845
A solution of 30.1 g of 5-chloro-2-hydroxy-α-phenyl-benzene-methanol in 200 ml of anhydrous toluene was added dropwise with stirring at room temperature to a mixture of 10.35 g of sodium amide and 100 ml of toluene and the mixture was stirred for 2 hours at room temperature and was then refluxed for 6 hours. After cooling the mixture to room temperature, 22.3 g of potassium dichloroacetate were added thereto in small portions and 20 ml of hexamethylphosphoramide were added. The mixture was stirred for 20 hours at room temperature and was then refluxed for 4 hours and then returned to room temperature. 20 ml of ethyl acetate were added thereto followed by show addition of 250 ml of water and the aqueous phase containing the potassium salt of the desired acid was extracted 3 times with 100 ml of ether and acidified by bubbling sulfur dioxide therethrough. The mixture was then extracted 3 times with 100 ml of ether and the combined ether extracts were washed 3 times with 100 ml of water, dried over magnesium sulfate, treated with activated carbon and evaporated to dryness under reduced pressure. The 24 g of residue were effloresced in cyclohexane to obtain crystals which were crystallized from 520 ml of a 7-3 benzene-cyclohexane mixture to obtain 5.3 g of 6-chloro-4-phenyl-[4H]-1,3-benzodioxin-2-carboxylic acid melting at 194° C.

reactant | 5-chloro-2-hydroxy-α-phenyl-benzene-methanol | 30.1 g | ClC=1C=CC(=C(C1)C(O)C1=CC=CC=C1)O | C13H11ClO2
reactant | sodium amide | 10.35 g | [NH2-].[Na+]
reactant | potassium dichloroacetate | 22.3 g | ClC(C(=O)[O-])Cl.[K+]
reactant | potassium | [K] | K
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 250 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | hexamethylphosphoramide | 20 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 6-chloro-4-phenyl-[4H]-1,3-benzodioxin-2-carboxylic acid | 5.3 g | ClC1=CC2=C(OC(OC2C2=CC=CC=C2)C(=O)O)C=C1 | C15H11ClO4
